US04404214
0.76 g of 3,6-dimethyl-2-pyridinecarboxylic acid, 0.82 g of N,N'-carbonyldiimidazole and 0.51 g of 5-aminotetrazole are treated in the same manner as described in Example 2. The crude product thus obtained is recrystallized from a mixture of dimethylformamide and ethanol, whereby 0.68 g of N-(5-tetrazolyl)-3,6-dimethyl-2-pyridinecarboxamide is obtained.

reactant | 3,6-dimethyl-2-pyridinecarboxylic acid | 0.76 g | CC=1C(=NC(=CC1)C)C(=O)O | C8H9NO2
reactant | 5-aminotetrazole | 0.51 g | NC1=NN=NN1 | CH3N5
product | N-(5-tetrazolyl)-3,6-dimethyl-2-pyridinecarboxamide | 0.68 g | N1N=NN=C1NC(=O)C1=NC(=CC=C1C)C | C9H10N6O
